US08314091B2
D: (R)—N-tert-Butyl-3-((4-(4-(3-(cyclopropylmethyl)ureido)-3-fluorobenzoyl)-2-methylpiperazin-1-yl)methyl)benzamide
(R)-3-((4-(4-Amino-3-fluorobenzoyl)-2-methylpiperazin-1-yl)methyl)-N-tert-butylbenzamide (119 mg, 0.275 mmol) and 4-nitrophenol chloroformate (56 mg, 0.275 mmol) were combined and stirred in dichloromethane for 1 hour. Cyclopropanemethylamine (56.8 mg, 0.8 mmol, 0.0694 mL) was added and the reaction was stirred for a further 30 minutes. Water was added and the reaction mixture was flushed through a hydrophobic frit. The organic phase was concentrated under reduced pressure and purified by basic reverse phase HPLC to afford the title compound (19.8 mg). MS (ES) m/z 524.7 [M+H]+

reactant | (R)-3-((4-(4-Amino-3-fluorobenzoyl)-2-methylpiperazin-1-yl)methyl)-N-tert-butylbenzamide | 0.275 mmol, 119 mg | NC1=C(C=C(C(=O)N2C[C@H](N(CC2)CC=2C=C(C(=O)NC(C)(C)C)C=CC2)C)C=C1)F | C24H31FN4O2
reactant | 4-nitrophenol chloroformate | 0.275 mmol, 56 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | Cyclopropanemethylamine | 0.8 mmol, 0.0694 mL, 56.8 mg | C1(CC1)CN | C4H9N
reactant | Water | O | H2O
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)—N-tert-Butyl-3-((4-(4-(3-(cyclopropylmethyl)ureido)-3-fluorobenzoyl)-2-methylpiperazin-1-yl)methyl)benzamide | 19.8 mg | C(C)(C)(C)NC(C1=CC(=CC=C1)CN1[C@@H](CN(CC1)C(C1=CC(=C(C=C1)NC(=O)NCC1CC1)F)=O)C)=O | C29H38FN5O3
